US06884821B1
1.015 g of tertiary butyl N-(5-bromo-2-methoxybenzyl)carbamate, 45 mg of dichlorobis(triphenylphosphine) palladium (II), 330 mg of sodium formate and 17 mg of triphenyl phosphine were dissolved in anhydrous N,N-dimethylformamide and stirred at 110° C. for 2 hours in a carbon monoxide atmosphere. The reaction mixture was diluted with ethyl acetate, and successively washed with water and saturated aqueous sodium bicarbonate. The organic layer was dried over anhydrous magnesium sulfate and the solvent was evapoarated. The residue was purified by silica gel column chromatography, and from fractions eluted with hexane-ethyl acetate (3:1), 640 mg of tertiary butyl N-(5-formyl-2-methoxybenzyl)carbamate was obtained.

reactant | tertiary butyl N-(5-bromo-2-methoxybenzyl)carbamate | 1.015 g | BrC=1C=CC(=C(CNC(OC(C)(C)C)=O)C1)OC | C13H18BrNO3
reactant | sodium formate | 330 mg | C(=O)[O-].[Na+]
reactant | carbon monoxide | [C]=O | CO
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | triphenyl phosphine | 17 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | tertiary butyl N-(5-formyl-2-methoxybenzyl)carbamate | 640 mg | C(=O)C=1C=CC(=C(CNC(OC(C)(C)C)=O)C1)OC | C14H19NO4
